US06528510B1
4-Methyl-1-pyridin-3-yl-pentan-3-one
The title compound was prepared according to General Method 4a using 3-iodo-pyridine (36.6 mmol), 4-methyl-1-penten-3-ol (54.9 mmol), tetrabutyl ammonium chloride (36.6 mmol), sodium bicarbonate (91.5 mmol), pyrrolidine (˜1.5 mL), DMF (15 mL), and palladium acetate (0.51 g). The title compound was flash chromatographed eluting with EtOAc:CH2Cl2:hexane 50:25:25.

reactant | 3-iodo-pyridine | 36.6 mmol | IC=1C=NC=CC1 | C5H4IN
reactant | 4-methyl-1-penten-3-ol | 54.9 mmol | CC(C(C=C)O)C | C6H12O
reactant | sodium bicarbonate | 91.5 mmol | C([O-])(O)=O.[Na+]
reactant | pyrrolidine | ˜1.5 mL | N1CCCC1 | C4H9N
catalyst | tetrabutyl ammonium chloride | 36.6 mmol | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.51 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-1-pyridin-3-yl-pentan-3-one | CC(C(CCC=1C=NC=CC1)=O)C | C11H15NO
